US07250433B2
To a flask charged with dry sodium hydride (0.32 g, 13.3 mmol) was added (2-trityl-2H-tetrazol-5-yl)-acetonitrile (2.34 g, 6.67 mmol). The solids were swirled to mix, cooled to 0° C., and 25 mL THF was added quickly, resulting in vigorous H2 evolution and a bright yellow foam. The mixture was stirred at 0° C. for 5 min, at which time the ice bath was removed and stirring continued for 10 min. Cyclopentanone (0.65 mL, 7.33 mmol) in 10 mL THF was added quickly resulting in a clear orange solution. The mixture was stirred for 2 h, partitioned between EtOAc and sat. NH4Cl (aq), and the organic phase dried (MgSO4) and concentrated. Flash chromatography of the residue (CH2Cl2) furnished 2.05 g (74%) of cyclopentylidene-(2-trityl-2H-tetrazol-5-yl)-acetonitrile as a white solid. 1H NMR (CDCl3) δ 7.32 (m, 9H), 7.10 (m, 6H), 2.86 (m, 4H, —CH2CCH2—), 1.84 (m, 4H, —CH2CH2CH2CH2—).

reactant | sodium hydride | 13.3 mmol, 0.32 g | [H-].[Na+]
reactant | (2-trityl-2H-tetrazol-5-yl)-acetonitrile | 6.67 mmol, 2.34 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=C(N=N1)CC#N | C22H17N5
reactant | Cyclopentanone | 7.33 mmol, 0.65 mL | C1(CCCC1)=O | C5H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | cyclopentylidene-(2-trityl-2H-tetrazol-5-yl)-acetonitrile | 2.05 g, 74% | C1(CCCC1)=C(C#N)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H23N5
